US07192950B2
9-(3,4-Dimethoxy-benzyl)-2,3-dimethoxy-6,7-dihydro-9H-5-thia-8-aza-benzocycloheptene-8-carboxylic acid tert-butyl ester
To a cold (0° C.) stirred solution of 9-(3,4-dimethoxy-benzyl)-2,3-dimethoxy-6,7,8,9 tetrahydro-5-thia-8-aza-benzocycloheptene (417 mg, 1.11 mmol) in dry CH2Cl2 (5 ml), were added TEA (168 μL, 1.2 mmol) and di-tert.-butyl-dicarbonate (262 mg, 1.2 mmol). The resulting mixture was allowed to warm-up and stirred at RT for 20 h under nitrogen. The reaction mixture was combined with water, extracted twice with CH2Cl2, the combined organic phases were dried over anhydrous MgSO4, filtered and concentrated to give a crude yellow oil. Flash chromatography (AcOEt) gave the title compound as a pale yellow oil (486 mg, 91%).

reactant | 9-(3,4-dimethoxy-benzyl)-2,3-dimethoxy-6,7,8,9 tetrahydro-5-thia-8-aza-benzocycloheptene | 1.11 mmol, 417 mg | COC=1C=C(CC2NCCSC3=C2C=C(C(=C3)OC)OC)C=CC1OC | C20H25NO4S
reactant | di-tert.-butyl-dicarbonate | 1.2 mmol, 262 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 9-(3,4-Dimethoxy-benzyl)-2,3-dimethoxy-6,7-dihydro-9H-5-thia-8-aza-benzocycloheptene-8-carboxylic acid tert-butyl ester | 486 mg, 91% | C(C)(C)(C)OC(=O)N1CCSC2=C(C1CC1=CC(=C(C=C1)OC)OC)C=C(C(=C2)OC)OC | C25H33NO6S
